US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 2-chlorophenylboronic acid (23.5 mg, 0.15 mmol) gave 4-(2-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (19.2 mg, 46%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.63 (br.s., 1 H); 8.82 (s, 1 H); 7.73 (s, 1 H); 7.59-7.65 (m, 2 H); 7.51 (td, 1 H); 7.46 (d, 1H); 7.39 (s, 1 H); 3.85 (s, 3 H); 3.81 (s, 3 H). MS m/z 416 (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 2-chlorophenylboronic acid | 0.15 mmol, 23.5 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 4-(2-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 19.2 mg, 46% | ClC1=C(C=CC=C1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H14ClN3O4S
